US04008325
A solution of 6-methyl-1,2,3,4-tetrahydroquinoline (3.0 g) and ethyl acetoacetate (2.8 g) in xylene (7.0 ml) containing 2 drops of dry pyridine was refluxed for 12 hours. The solution was then allowed to cool to room temperature, washed in turn with 2N hydrochloric acid (2× 20 ml) and water (2 × 20 ml), dried over anhydrous magnesium sulphate and evaporated under reduced pressure at 100° to dryness, yielding 1-acetoacetyl-6-methyl-1,2,3,4-tetrahydroquinoline (1.7 g) as a crude solid, to be used directly in the next stage.

reactant | 6-methyl-1,2,3,4-tetrahydroquinoline | 3.0 g | CC=1C=C2CCCNC2=CC1 | C10H13N
reactant | ethyl acetoacetate | 2.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | xylene | 7.0 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | 1-acetoacetyl-6-methyl-1,2,3,4-tetrahydroquinoline | 1.7 g | C(CC(=O)C)(=O)N1CCCC2=CC(=CC=C12)C | C14H17NO2
